US04272435
Next, 266 g (0.286 mole) of a 8% aqueous sodium hypochlorite solution (pH 12) was cooled to 5° C., and to the aqueous solution was added 150 ml of an acetonitrile solution containing 17.7 g (0.2 mole) of the resulting 95%-pure 2-amino-2-methylpropionitrile and 0.6 g of tetrabutylammonium bromide over 30 minutes with stirring. The resulting reaction mixture was stirred at 7° to 10° C. for 30 minutes to complete the reaction. By iodometry, it was found that the total oxidative compounds in both the water and acetonitrile phases after reaction was 0.08 equivalent. This reaction mixture was adjusted to a pH of 6 with a dilute hydrochloric acid and 4.2 g (0.12 equivalent) of sodium nitrite was added thereto, followed by stirring at 15° C. for 20 minutes. Thereafter, the reaction mixture was diluted with 1050 g of water, and the thus precipitated white crystals were filtered, washed with water and dried to obtain 16 g of 2,2'-azobis(isobutyronitrile). The resulting white crystals had a melting point of 104°-105.5° C. and a purity of 99% or more.

reactant | sodium hypochlorite | pH 12 | Cl[O-].[Na+]
reactant | 2-amino-2-methylpropionitrile | NC(C#N)(C)C | C4H8N2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | 4.2 g, 0.12 equivalent | N(=O)[O-].[Na+]
catalyst | tetrabutylammonium bromide | 0.6 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 1050 g | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2,2'-azobis(isobutyronitrile) | 16 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
